US08034938B2
tert-Butyl (2S)-2-amino-3-{[tert-butyl(dimethyl)silyl]oxy}propylcarbamate (3.43 g, 11.3 mmol) was dissolved in 110 mL of dry CH2Cl2. Triethylamine (3.14 mL, 22.6 mmol) and 4-chloro-3-nitroquinoline (2.35 g, 11.3 mmol) were then added and the reaction was stirred under N2 overnight. The reaction mixture was then treated with 100 mL of H2O and 100 mL of CH2Cl2. The layers were separated and the organic portion was washed successively with H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure to give yellow solid. Chromatography (SiO2, 0-20% ethyl acetate/CH2Cl2) gave tert-butyl (2S)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-[(3-nitroquinolin-4-yl)amino]propylcarbamate (4.84 g) as a yellow solid.

reactant | tert-Butyl (2S)-2-amino-3-{[tert-butyl(dimethyl)silyl]oxy}propylcarbamate | 11.3 mmol, 3.43 g | N[C@@H](CNC(OC(C)(C)C)=O)CO[Si](C)(C)C(C)(C)C | C14H32N2O3Si
reactant | Triethylamine | 22.6 mmol, 3.14 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitroquinoline | 11.3 mmol, 2.35 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | H2O | 100 mL | O | H2O
solvent | CH2Cl2 | 110 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate CH2Cl2 | C(C)(=O)OCC.C(Cl)Cl
product | tert-butyl (2S)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-[(3-nitroquinolin-4-yl)amino]propylcarbamate | 4.84 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CNC(OC(C)(C)C)=O)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C23H36N4O5Si
